US04500712
6-Methyl-8α-(3-benzoyl-thioureidomethyl)-10β-ergoline
1.05 ml of benzoyl isothiocyanate were added to a suspension of 2 g of 8α-aminomethyl-6-methyl-10β-ergoline in 22 ml of acetonitrile at 80° C. under shaking. The solution was refluxed for thirty minutes and then evaporated in vacuo to dryness. The residue was chromatographed on silica gel (eluant chloroform with 2% methanol) to give 2.2 g of the title compound, m.p. 153°-155° C., after crystallization from diethyl ether.

reactant | benzoyl isothiocyanate | 1.05 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | 8α-aminomethyl-6-methyl-10β-ergoline | 2 g | NC[C@@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@@H]2C1)=C34)C | C16H21N3
solvent | acetonitrile | 22 ml | C(C)#N | C2H3N
product | 6-Methyl-8α-(3-benzoyl-thioureidomethyl)-10β-ergoline | 2.2 g | CN1C[C@H](C[C@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)CNC(=S)NC(C3=CC=CC=C3)=O | C24H26N4OS
